US06100260
Ethyl 5-(2-fluoro-biphenyl-4-yl)-2-hydroxy-4-oxo-hex-2-enoate
3-(2-Fluoro-biphenyl-4-yl)-butan2-one (Japanese Patent Unexamined Publication No. 54-144347) (116 mg) was dissolved in toluene (2 ml), followed by adding thereto sodium hydride (29 mg, 60% oily), and the mixture was stirred at room temperature for 1 hour. Then, diethyl oxalate (105 mg) was added and the resulting mixture was stirred at 40° C. for 3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, and the extract solution was washed with water and dried. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography to obtain the desired compound (163 mg).

reactant | 3-(2-Fluoro-biphenyl-4-yl)-butan2-one | FC1=C(C=CC(=C1)C(C(C)=O)C)C1=CC=CC=C1 | C16H15FO
reactant | sodium hydride | 29 mg | [H-].[Na+]
reactant | diethyl oxalate | 105 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Water | O | H2O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-(2-fluoro-biphenyl-4-yl)-2-hydroxy-4-oxo-hex-2-enoate | 163 mg | FC1=C(C=CC(=C1)C(C(C=C(C(=O)OCC)O)=O)C)C1=CC=CC=C1 | C20H19FO4
